US03987116
Methyl (5-methoxynaphth-2-yl)ketone (0.25 moles) and phosphorus pentachloride (0.31 moles) are placed in a 3-neck flask equipped with a mechanical stirrer, a condenser connected to a nitrogen inlet, and a thermometer. The mixture is stirred at 33°-35° C for 3 days. The cooled reaction mixture is poured onto 800 g of ice and extracted with 3 × 500 ml of ether. The ether fraction is washed with 2 × 100 ml water 4 × 100 ml of 5% sodium hydroxide, 3 × 50 ml water, 2 × 50 ml of saturated saline and dried over sodium sulfate. The ether is removed to give the chlorinated intermediate. The intermediate is dissolved in anhydrous THF (200 ml) and is added dropwise to a freshly prepared solution of sodamide in liquid ammonia, using a dry-ice condenser. The reaction mixture is allowed to stir at room temperature overnight; then, it is poured into 50 ml of water and 500 ml of ether. The ether fraction is washed with 3 × 50 ml water and solvent gives a residue which is distilled to give 2-ethynyl-5-methoxynaphthalene.

reactant | Methyl (5-methoxynaphth-2-yl)ketone | 0.25 moles | CC(=O)C1=CC2=CC=CC(=C2C=C1)OC | C13H12O2
reactant | phosphorus pentachloride | 0.31 moles | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodamide | [NH2-].[Na+]
reactant | ammonia | N | H3N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 2-ethynyl-5-methoxynaphthalene | C(#C)C1=CC2=CC=CC(=C2C=C1)OC | C13H10O
